US05374625
In an atmosphere of argon gas, lithium hydride (4.8 mg, 0.6 mmole) was added to a suspension of 2-amino-6-(2-methoxyethoxy)-purine (354.4 mg, 1.69 mmoles) in anhydrous DMF (15 ml). After stirring the mixture at room temperature for one hour, (3S,4S)-3,4-bis(benzoyloxymethyl)-7-oxabicyclo[4.1.0]-heptane (310.4 mg, 0.85 mmole) was added, and the reaction was further continued at 140° C. for 1.5 hours. Then, while cooling the reaction mixture, 0.2M phosphate buffer solution (pH 7.0) was added thereto and the mixture was stirred for a while, and then the mixture was subjected to extraction with ethyl acetate. The extract solution was washed with water, washed with saturated aqueous solution of sodium chloride and dried on anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain 2-amino-9-[1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-6-(2-methoxyethoxy)-purine (320 mg, Yield 65.6%).

reactant | lithium hydride | 0.6 mmole, 4.8 mg | [H-].[Li+]
reactant | 2-amino-6-(2-methoxyethoxy)-purine | 1.69 mmoles, 354.4 mg | NC1=NC(=C2NC=NC2=N1)OCCOC | C8H11N5O2
reactant | (3S,4S)-3,4-bis(benzoyloxymethyl)-7-oxabicyclo[4.1.0]-heptane | 0.85 mmole, 310.4 mg | C(C1=CC=CC=C1)(=O)OC[C@H]1CC2OC2C[C@@H]1COC(C1=CC=CC=C1)=O | C22H22O5
reactant | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-(2-methoxyethoxy)-purine | 320 mg, Yield 65.6% | COCCOC1=C2NC=NC2=NC=N1 | C8H10N4O2
